US06329366B1
Triethylsilane (34.75 ml, 49.1 g, 0.042 mol) was added dropwise to a stirred solution of 3,3-dimethyl-6-methylthio-2,4(1H,3H)-quinolinedione (12.79 g, 0.054 mol) in trifluoroacetic acid (520 ml) under nitrogen at 60° C. The reaction was then allowed to cool slowly to room temperature and was stirred for 16 hr. The solvent was then evaporated in vacuo to afford a yellow residue. The residue was then poured into saturated potassium carbonate solution (200 ml). The product was extracted with ethyl acetate (3×150 ml) The organic extracts were combined, washed with water (200 ml), dried and concentrated in vacuo to afford 3,4-dihydro-3,3-dimethyl-6-methylthio-2(1H)-quinolinone as a yellow solid. Mp 154° C.

reactant | Triethylsilane | 0.042 mol, 34.75 ml, 49.1 g | C(C)[SiH](CC)CC | C6H16Si
reactant | 3,3-dimethyl-6-methylthio-2,4(1H,3H)-quinolinedione | 0.054 mol, 12.79 g | CC1(C(NC2=CC=C(C=C2C1=O)SC)=O)C | C12H13NO2S
reactant | potassium carbonate | 200 ml | C([O-])([O-])=O.[K+].[K+]
solvent | trifluoroacetic acid | 520 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3,4-dihydro-3,3-dimethyl-6-methylthio-2(1H)-quinolinone | CC1(C(NC2=CC=C(C=C2C1)SC)=O)C | C12H15NOS
